US04321270
The crude o-anisalacetone is hydrogenated (100 g/l liter of ethyl acetate and 1 g of platinum oxide) and then distilled to give 1.25 moles (45%) of 1-(o-methoxyphenyl)-3-butanone, bp 90°-110° C., 0.15 mm Hg.

reactant | o-anisalacetone | C(C=1C(=CC=CC1)OC)=CC(C)=O | C11H12O2
catalyst | platinum oxide | 1 g | [Pt]=O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(o-methoxyphenyl)-3-butanone | 1.25 moles, 45% | COC1=C(C=CC=C1)CCC(C)=O | C11H14O2
